US07553969B1
(1) Synthesis of Boc-Tyr(3-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2
To a solution of the above crude Boc-Tyr(3-F)-OH (1.18 g), N-Me-Val-N-Me-Tyr(3-tBu)-NH2 (1.10 g, 3.03 mmol) and CMPI (1.16 g, 4.55 mmol) in THF (6 ml), TEA (1.27 ml, 12.1 mmol) was added under cooling with ice and stirred at room temperature for 27 hours. The reaction mixture was mixed with water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: chloroform:methanol:concentrated aqueous ammonia=30:1:0.05), giving the titled compound (0.19 g, 10%).

reactant | Boc-Tyr(3-F)-OH | 1.18 g | N([C@@H](CC1=CC(=C(C=C1)O)F)C(=O)O)C(=O)OC(C)(C)C | C14H18FNO5
reactant | N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 3.03 mmol, 1.10 g | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C | C20H33N3O3
reactant | water | O | H2O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | Boc-Tyr(3-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 0.19 g, 10% | N([C@@H](CC1=CC(=C(C=C1)O)F)C(=O)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C)C(=O)OC(C)(C)C | C34H49FN4O7
